US05185361
Methyl indole-5-carboxylate (5 g) was dissolved in methanol (300 ml) containing concentrated sulphuric acid (12 ml) and 10% palladium on charcoal (1.0 g) added. The reaction mixture was hydrogenated in a Parr bottle at 65 p.s.i. with shaking for 48 hours. The catalyst was filtered off through Celite. The solution was made basic by addition of ammonia solution (0.880) and evaporated in vacuo. The product was extracted from water into ethyl acetate, the organic extracts dried over anhydrous magnesium sulphate, filtered and evaporated in vacuo to give methyl indoline-5-carboxylate, m.p. 70°-72° C.

reactant | Methyl indole-5-carboxylate | 5 g | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | sulphuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | methyl indoline-5-carboxylate | N1CCC2=CC(=CC=C12)C(=O)OC | C10H11NO2
